US07491710B2
A solution of 100 mg of 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)indazole-1-carboxylic acid tert-butyl ester and 132 μl of 1-bromo-2-chloroethane in 5 ml of dichloromethane is mixed with an aqueous solution of 72 mg of tetrabutylammonium bromide and of 270 μl of 2N sodium hydroxide in 5 ml of distilled water. The reaction mixture is stirred vigorously at 20° C. for 6 hours. After separation by settling out and washing with water (4×5 ml), the organic extracts are combined, dried over magnesium sulfate and then evaporated under reduced pressure. The crude compound obtained is purified by preparative LC/MS. The fractions containing the expected compound are combined and evaporated under reduced pressure to obtain 18.1 mg of 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-chloroethoxy)-1H-indol-2-yl]-indazole-1-carboxylic acid tert-butyl ester, which is characterized as follows:

reactant | 5-benzyloxy-3-(1-tert-butoxycarbonyl-5-hydroxy-1H-indol-2-yl)indazole-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)O)C(=O)OC(C)(C)C | C32H33N3O6
reactant | 1-bromo-2-chloroethane | 132 μl | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 2N, 270 μl | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 72 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5 ml | O | H2O
product | 5-benzyloxy-3-[1-tert-butoxycarbonyl-5-(2-chloroethoxy)-1H-indol-2-yl]-indazole-1-carboxylic acid tert-butyl ester | 18.1 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)OCCCl)C(=O)OC(C)(C)C | C34H36ClN3O6
